US06063782
Methyl 1-(3,3-difluoro-2-propenyl)-3-formyl-4,5-dimethylpyrrole-2-carboxylate
The title compound was prepared as a pale yellow oil in 70.4% yeild in a similar procedure to that described in Referential Example 9 by using methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate and 3-bromo-3,3-difluoro-1-propene.

reactant | methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate | C(=O)C1=C(NC(=C1C)C)C(=O)OC | C9H11NO3
reactant | 3-bromo-3,3-difluoro-1-propene | BrC(C=C)(F)F | C3H3BrF2
product | Methyl 1-(3,3-difluoro-2-propenyl)-3-formyl-4,5-dimethylpyrrole-2-carboxylate | FC(=CCN1C(=C(C(=C1C)C)C=O)C(=O)OC)F | C12H13F2NO3
